US06846835B2
Synthesis of (2R,5R)-2-(t-butyl)-5-((1R)-3,3-difluorocyclopentyl)-5-phenyl-1,3-dioxolan-4-one
To a solution of 2.8 g of (2R,5R)-2-(t-butyl)-5-((1R)-3-oxocyclopentyl)-5-phenyl-1,3-dioxolan-4-one in 30 ml of chloroform, 4.89 ml of trifluorodiethylaminosulfuric acid was added under cooling with ice, followed by 20 hours' stirring at room temperature. The reaction liquid was diluted with chloroform, washed successively with water and with saturated brine, and dried over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure, the resulting residue was purified on silica gel column chromatography (eluent: hexane/ethyl acetate=20/1) to provide 2.4 g of the title compound.

reactant | (2R,5R)-2-(t-butyl)-5-((1R)-3-oxocyclopentyl)-5-phenyl-1,3-dioxolan-4-one | 2.8 g | C(C)(C)(C)[C@@H]1O[C@@](C(O1)=O)(C1=CC=CC=C1)[C@H]1CC(CC1)=O | C18H22O4
reactant | trifluorodiethylaminosulfuric acid | 4.89 ml | FC(CN(CC)OS(O)(=O)=O)(F)F | C4H8F3NO4S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (2R,5R)-2-(t-butyl)-5-((1R)-3,3-difluorocyclopentyl)-5-phenyl-1,3-dioxolan-4-one | 2.4 g | C(C)(C)(C)[C@@H]1O[C@@](C(O1)=O)(C1=CC=CC=C1)[C@H]1CC(CC1)(F)F | C18H22F2O3
